US05804686
To a solution of 4-nitro-(2-methylaminoethoxy)benzene (766 mg, 3.9 mmol) and pyridine (0.35 mL, 4.29 mmol) in dichloromethane (5 mL) at 0° C. is added dropwise trifluroacetic anhydride (0.72 mL, 5.08 mmol). After stirring at 0° C. for 3.5 hours, the mixture is poured into aqueous 1.2N hydrochloric acid and extracted with dichloromethane. The organic layer is washed with saturated aqueous sodium bicarbonate then brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 4-nitro-(N-trifluoroacetyl-2-methylaminoethoxy)benzene (1.06 g). Treatment of this nitro compound with 10% Palladium on carbon in ethyl alcohol (18 mL) in a Parr bottle under Hydrogen (55 PSI) for 2.25 hours affords 4-amino-(N-trifluoroacetyl-2-methylaminoethoxy)benzene (709 mg).

reactant | 4-nitro-(2-methylaminoethoxy)benzene | 3.9 mmol, 766 mg | [N+](=O)([O-])C1=CC=C(C=C1)OCCNC | C9H12N2O3
reactant | pyridine | 4.29 mmol, 0.35 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluroacetic anhydride | 5.08 mmol, 0.72 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 1.2N | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-nitro-(N-trifluoroacetyl-2-methylaminoethoxy)benzene | 1.06 g | [N+](=O)([O-])C1=CC=C(C=C1)OCCN(C(C(F)(F)F)=O)C | C11H11F3N2O4
